US07846929B2
To a suspension of 2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (54 mg) in anhydrous methanol (8 ml) was added phosphorus sulphone (34 mg), followed by sodium methoxide (148 ul). The reaction mixture was stirred at room temperature for 4.5 hours, then evaporated onto silica and purified by flash chromatography to give 2-(1H-indol-4-yl)-6-((E)-2-methanesulfonyl-vinyl))-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (30 mg).

reactant | 2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 54 mg | N1C=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C19H16N4O2S
reactant | sodium methoxide | 148 ul | C[O-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 30 mg | N1(CCOCC1)C=1C2=C(N=CN1)C=CS2 | C10H11N3OS
